US04431651
B-1. Ethyl 4-Acetyl-3-methyl-4-(4-pyridinyl)butanoate
B-4. Ethyl 4-Acetyl-2,3-dimethyl-4-(4-pyridinyl)butanoate, using 1-(4-pyridinyl)-2-propanone and ethyl α,β-dimethylacrylate.

reactant | Ethyl 4-Acetyl-2,3-dimethyl-4-(4-pyridinyl)butanoate | C(C)(=O)C(C(C(C(=O)OCC)C)C)C1=CC=NC=C1 | C15H21NO3
reactant | 1-(4-pyridinyl)-2-propanone | N1=CC=C(C=C1)CC(C)=O | C8H9NO
reactant | ethyl α,β-dimethylacrylate | CC(C(=O)OCC)=CC | C7H12O2
product | Ethyl 4-Acetyl-3-methyl-4-(4-pyridinyl)butanoate | C(C)(=O)C(C(CC(=O)OCC)C)C1=CC=NC=C1 | C14H19NO3
